US06965048B2
181 mg (4.78 mmol, 10 eq) of NaBH4 were added portionwise to a solution of 250 mg (0.48 mmol) of trans-3-[methyl-(3-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionyl)-amino]-propionic acid ethyl ester in 6 mL of a mixture of THF:MeOH (1:1) at 0° C. The reaction mixture was stirred at RT for 4 h. Water was added and the reaction was extracted with CH2Cl2. The combined organic phases were dried over Na2SO4, filtered and evaporated. The crude product was purified by flash chromatography with a gradient of CH2Cl2:MeOH 98:2 to 95:5 to yield 55 mg (24%) of trans-N-(3-hydroxy-propyl)-N-methyl-3-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionamide as colorless oil, MS: 481(MH+).

reactant | NaBH4 | 4.78 mmol, 181 mg, 10 eq | [BH4-].[Na+]
reactant | trans-3-[methyl-(3-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionyl)-amino]-propionic acid ethyl ester | 0.48 mmol, 250 mg | C(C)OC(CCN(C(CCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)=O)C)=O | C23H33F3N2O6S
reactant | THF MeOH | C1CCOC1.CO
solvent | Water | O | H2O
product | trans-N-(3-hydroxy-propyl)-N-methyl-3-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionamide | 55 mg, 24% | OCCCN(C(CCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)=O)C | C21H31F3N2O5S
